US06855722B2
a) Trimethyl-triethoxyprop-1-ynyl-silane
Boron trifluoride diethyl etherate (36.0 mL, 280 mmol) was added to diethyl ether (50 mL) under argon. The mixture was transferred to a dropping funnel and added dropwise under argon to a solution of tetraethyl orthocarbonate (40.0 g, 208 mmol) in diethyl ether (100 mL) at 0° C. After the addition was complete, the mixture was stirred for 5 min and then cooled to −78° C. In a separate reaction flask, n-butyllithium (166 mL, 2.5 M solution in hexanes, 416 mmol) was added dropwise to a solution of trimethylsilyl acetylene (59.0 mL, 416 mmol) in diethyl ether (200 mL) at 0° C. under argon. After stirring for 1 h at 0° C., the solution was cooled to −78° C. This solution was added via cannula to the triethoxycarbenium tetrafluoroborate formed previously. The mixture was stirred at −78° C. for 1 h before being warming to room temperature. Saturated aqueous potassium carbonate was added and mixture was extracted with diethyl ether. The organic extracts were dried with magnesium sulfate and the solvent was removed under reduced pressure to give the title compound (50.0 g, 100% yield) as yellow oil. 1H NMR (CDCl3) δ 3.68(q, 6H, J=7.2 Hz), 1.23 (t, 9H, J=7.2 Hz), 0.20, (s, 9H).

reactant | Boron trifluoride diethyl etherate | 280 mmol, 36.0 mL | B(F)(F)F.CCOCC
reactant | tetraethyl orthocarbonate | 208 mmol, 40.0 g | C(OCC)(OCC)(OCC)OCC | C9H20O4
reactant | n-butyllithium | 416 mmol, 2.5 M, 166 mL | C(CCC)[Li]
reactant | trimethylsilyl acetylene | 416 mmol, 59.0 mL | C[Si](C)(C)C#C | C5H10Si
reactant | triethoxycarbenium tetrafluoroborate | F[B-](F)(F)F.C(C)O[C+](OCC)OCC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | Trimethyl-triethoxyprop-1-ynyl-silane | 50.0 g, 100% yield | C[Si](C#CC(OCC)(OCC)OCC)(C)C | C12H24O3Si
